US09056873B2
Step C: 6-((3R,4R)-3-Aminotetrahydro-2H-pyran-4-ylamino)-4-(3-ethylisothiazol-5-yl)-7-fluoro-1H-pyrrolo[3,4-c]pyridin-3(2H)-one
To a stirred solution of tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-(3-ethylisothiazol-5-yl)-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (53 mg, 0.092 mmol) in MeOH (10 mL) was added 4N HCl/dioxane (10.0 mL, 40.0 mmol). The mixture was heated to 60° C. for 1 hour and then concentrated in vacuo. The residue was triturated with EtOAc and filtered. The filter cake was washed with EtOAc to give a yellow solid, which was suspended into EtOH. The mixture was stirred at 80° C. for 30 minutes and then cooled to room temperature. The resulting precipitate was collected by filtration and washed with EtOH to give a hydrochloride salt of the title compound as an off-white solid (26.8 mg, 70%). 1H NMR (500 MHz, DMSO-d6) δ ppm 1.26 (t, J=7.57 Hz, 3H), 1.74-1.83 (m, 1H), 2.07-2.20 (m, 1H), 2.81 (q, J=7.60 Hz, 2H), 3.57-3.67 (m, 1H), 3.73-3.84 (m, 2H), 3.96-4.09 (m, 2H), 4.28-4.36 (m, 1H), 4.43-4.53 (m, 2H), 7.46 (d, J=5.37 Hz, 1H), 8.05 (br s, 3H), 8.68 (s, 1H), 8.80 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C17H20FN5O2S, 378. found, 378.

reactant | tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-(3-ethylisothiazol-5-yl)-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.092 mmol, 53 mg | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)C1=CC(=NS1)CC)C(N(C2)C(=O)OC(C)(C)C)=O)F | C27H36FN5O6S
reactant | HCl dioxane | 40.0 mmol, 4N, 10.0 mL | Cl.O1CCOCC1
reactant | EtOH | CCO | C2H6O
solvent | MeOH | 10 mL | CO | CH4O
product | 6-((3R,4R)-3-Aminotetrahydro-2H-pyran-4-ylamino)-4-(3-ethylisothiazol-5-yl)-7-fluoro-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | 26.8 mg, 70% | N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)C1=CC(=NS1)CC)C(NC2)=O)F | C17H20FN5O2S
